US08067362B2
4-[(15-tert-butoxycarbonylpentadecanoylamino)methyl]benzoic acid (413 mg, 0.868 mmol) was dissolved in THF (5 mL), the solution was cooled with an icebath. DIPEA (0.33 mL, 1.91 mmol) and TSTU (314 mg, 1.04 mmol) were added. The mixture was stirred under nitrogen while cooling was maintained. After 30 minutes the icebath was removed and the mixture was stirred for additional 3 hours at room temperature. The mixture was diluted with NMP (5 mL) and H-GluOtBu (0.21 g, 1.04 mmol) was added, the mixture was stirred overnight at room temperature. The mixture was separated between ethyl acetate (100 mL) and water (100 mL), the organic phase dried (Na2SO4) and solvent removed in vacuo. The crude material was purified on silica using DCM/ethanol (90:10) to give (S)-2-{4-[(15-tert-Butoxycarbonyl-pentadecanoylamino)-methyl]-benzoylamino}-pentanedioic acid 1-tert-butyl ester.

reactant | 4-[(15-tert-butoxycarbonylpentadecanoylamino)methyl]benzoic acid | 0.868 mmol, 413 mg | C(C)(C)(C)OC(=O)CCCCCCCCCCCCCCC(=O)NCC1=CC=C(C(=O)O)C=C1 | C28H45NO5
reactant | DIPEA | 1.91 mmol, 0.33 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TSTU | 1.04 mmol, 314 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | H-GluOtBu | 1.04 mmol, 0.21 g | N[C@@H](CCC(O)=O)C(=O)OC(C)(C)C | C9H17NO4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | (S)-2-{4-[(15-tert-Butoxycarbonyl-pentadecanoylamino)-methyl]-benzoylamino}-pentanedioic acid 1-tert-butyl ester | C(C)(C)(C)OC([C@H](CCC(=O)O)NC(C1=CC=C(C=C1)CNC(CCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)=O)=O | C37H60N2O8
